US08236319B2
Mal-Gaba-Gly-Gly-Gly-β-Ala-OtBu
513 mg (2.8 mmol) of 4-(2,5-dioxo-2,5-dihydro-1H-pyrrol-1-yl)butanoic acid, 800 mg (0.2.8 mmol) tert-butyl 3-(2-(2-(2-aminoacetamido)acetamido)acetamido)propanoate and 583 mg (3.0 mmol) N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride were disolved in 12 mL of dimethyl formamide and stirred for 3 hours. The reaction mixture was purified in four equal portions by reverse phase HPLC using a 5.0 cm×25 cm C18 column. The column was eluted at 100 mL/min with deionized water containing 0.3% formic acid and 5% acetonitrile for 10 min followed by a 13 min linear gradient from 5% acetonitrile to 33% acetonitrile. Product fractions (retention time of 21 min) were combined and solvent was removed by rotary evaporation under vacuum to give 832 mg (62%) of the title compound. 1H NMR (d6-DMSO) 8.10-8.16 (m, 2H), 8.07 (t, J=4.8 Hz, 1H), 7.0-7.15 (m, 1H), 3.747 (t, J=6.0 Hz, 3H), 3.64 (d, J=5.6 Hz, 2H), 3.41 (t, J=6.8, 2H), 3.1-3.33 (m, 1H), 3.19-3.26 (m, 2H), 2.348 (t, J=6.8, 2H), 2.132 (t, J=7.2 Hz, 2H), 1.67-1.76 (m, 2H), 1.39 (s, 9H). 13C NMR (d6-DMSO) 171.80, 170.98, 170.39, 169.48, 168.96, 168.56, 134.37, 79.83, 42.05, 41.83, 37.38, 34.82, 34.71, 32.26, 27.83, 23.95. HRMS (M+Na+) Calc. 504.2070 found 504.2046

reactant | 4-(2,5-dioxo-2,5-dihydro-1H-pyrrol-1-yl)butanoic acid | 2.8 mmol, 513 mg | O=C1N(C(C=C1)=O)CCCC(=O)O | C8H9NO4
reactant | tert-butyl 3-(2-(2-(2-aminoacetamido)acetamido)acetamido)propanoate | 800 mg | NCC(=O)NCC(=O)NCC(=O)NCCC(=O)OC(C)(C)C | C13H24N4O5
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 3.0 mmol, 583 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethyl formamide | 12 mL | CN(C=O)C | C3H7NO
product | Gaba Gly-Gly-Gly-β-Ala-OtBu | 832 mg, 62% | C(CC(=O)O)CN.NCC(=O)NCC(=O)NCC(=O)NCCC(=O)OC(C)(C)C | InChI=1S/C13H24N4O5.C4H9NO2/c1-13(2,3)22-12(21)4-5-15-10(19)7-17-11(20)8-16-9(18)6-14;5-3-1-2-4(6)7/h4-8,14H2,1-3H3,(H,15,19)(H,16,18)(H,17,20);1-3,5H2,(H,6,7)
